US07358268B2
(ii) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazole-2,4-dicarboxylic acid 2-ethyl ester
To 24 mg of 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazole-2,4-dicarboxylic acid 4-tert-butyl ester 2-ethyl ester was added a 5 M solution of HCl in 2-propanol (2 mL). The mixture was stirred for 24 h at RT, concentrated in vacuo and the residue was purified by preparative HPLC (C18 reverse phase column, elution with a H2O/MeCN gradient with 0.1% TFA). The fractions containing the product were evaporated to provide 14 mg of the title compound as a pale yellow solid. Yield: 14 mg; MS (ESI+): m/e=381, chloro pattern.

reactant | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazole-2,4-dicarboxylic acid 4-tert-butyl ester 2-ethyl ester | 24 mg | CCOC(=O)C1=NC=C(N1CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C19H20ClN3O5S
reactant | HCl | Cl | ClH
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazole-2,4-dicarboxylic acid 2-ethyl ester | 14 mg | CCOC(=O)C1=NC=C(N1CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)O | C15H12ClN3O5S
